US06071898
Preparation of methyl asiatate (3)
Asiatic acid (500 mg) was dissolved in methanol (25 ml), and the solution was cooled to 0° C. An excess amount of diazomethane/ether solution was added, and the resultant mixture was stirred at room temperature for 1 hour. The solvent was removed by evaporation under reduced pressure, and the residue was purified by column chromatography (eluent: dichloromethane/methanol=30:1) to give 490 mg of white solid(yield: 95%). The product was recrystallized from ethyl acetate to obtain needle-like crystals.

reactant | Asiatic acid | 500 mg | C[C@@H]1CC[C@@]2(CC[C@@]3(C(=CC[C@H]4[C@]3(CC[C@@H]5[C@@]4(C[C@H]([C@@H]([C@@]5(C)CO)O)O)C)C)[C@@H]2[C@H]1C)C)C(=O)O | C30H48O5
reactant | diazomethane ether | [N+](=[N-])=C.CCOCC
solvent | methanol | 25 ml | CO | CH4O
product | methyl asiatate | 490 mg, yield: 95% | C[C@@H]1CC[C@@]2(CC[C@@]3(C(=CC[C@H]4[C@]3(CC[C@@H]5[C@@]4(C[C@H]([C@@H]([C@@]5(C)CO)O)O)C)C)[C@@H]2[C@H]1C)C)C(=O)OC | C31H50O5
